US07129235B2
N-(4-tert-butylphenyl)-8-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-3-carboxamide
8-(3-Chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane (102 mg, 456 μmol) and 1-tert-butyl-4-isocyanatobenzene (80 mg, 456 μmol) were combined in dry dichloromethane (4.5 mL) and stirred overnight at room temperature. The mixture was concentrated and the residue was purified by chromatography on silica gel (7:3, hexanes:ethyl acetate) to provide the title compound. MS (ESI) m/z: 399 (M+H)+;

reactant | 8-(3-Chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane | 456 μmol, 102 mg | ClC=1C(=NC=CC1)N1C2CNCC1CC2 | C11H14ClN3
reactant | 1-tert-butyl-4-isocyanatobenzene | 456 μmol, 80 mg | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
product | N-(4-tert-butylphenyl)-8-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-3-carboxamide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)N1CC2CCC(C1)N2C2=NC=CC=C2Cl | C22H27ClN4O
